US07101905B2
Part F: 1-Benzyl-3-(3-chlorophenyl)-3-methyl-4-piperidone
A solution of 1-benzyl-3-(3-chlorophenyl)-4-piperidone (75 mmol) in anhydrous THF (250 mL) is cooled to −30° C., then treated with a solution of freshly prepared lithium diisopropylamide (2.0 M in THF/heptane, 45 mL). After stirring for 15 minutes, a solution of methyl iodide (80 mmol) in THF (40 mL) is rapidly added. The mixture is stirred for 1 hour at −30° C., warmed quickly to room temperature, and quenched with a saturated aqueous solution of ammonium chloride. The organic layer is collected, washed with water, brine, and dried (MgSO4). After filtering, the filtrate is concentrated in vacuo to afford the desired intermediate.

reactant | 1-benzyl-3-(3-chlorophenyl)-4-piperidone | 75 mmol | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C1=CC(=CC=C1)Cl | C18H18ClNO
reactant | lithium diisopropylamide | 2.0 M, 45 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 80 mmol | CI | CH3I
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(3-chlorophenyl)-3-methyl-4-piperidone | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C1=CC(=CC=C1)Cl | C19H20ClNO
